US06300330B1
Ethyl 4-(2-methyl-4-pyridyl)benzoate (185 mg) was dissolved in methanol (7.5 ml) and 1.0M NaOH (3.75 ml) and heated at 60° C. for 3 hours. The resulting mixture was reduced to low volume then water (10 ml) added, the solution neutralised to pH 7 with 10M HCl, the resulting precipitate filtered and dried over P2O5 to give 4-(2-methyl-4-pyridyl)benzoic acid as a light brown solid (73 mg); mp 293-294° C.; 1H NMR (300 MHz, DMSO-d6) δ=2.52 (s,3H), 7.53 (d,1H), 7.62 (s,1H), 7.89 (d,2H), 8.04 (d,2H), 8.52 (d1H) ppm. MS: m/z 214 (M+H)+.

reactant | Ethyl 4-(2-methyl-4-pyridyl)benzoate | 185 mg | CC1=NC=CC(=C1)C1=CC=C(C(=O)OCC)C=C1 | C15H15NO2
reactant | NaOH | 1.0M, 3.75 ml | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | HCl | 10M | Cl | ClH
solvent | methanol | 7.5 ml | CO | CH4O
product | 4-(2-methyl-4-pyridyl)benzoic acid | 73 mg | CC1=NC=CC(=C1)C1=CC=C(C(=O)O)C=C1 | C13H11NO2
